US07858640B2
[3-(2-chloro-4-fluorobenzyl)-2-ethyl-8-fluoro-4-oxo-1,4-dihydroquinolin-5-yloxy]acetic Acid Methyl Ester
A mixture of (3-amino-4-fluorophenoxy)acetic acid methyl ester (1.1 g), 2-(2-chloro-4-fluorobenzyl)-3-oxopentanoic acid methyl ester (2.4 g), polyphosphoric acid (5 g) and dioxane (10 mL) was heated at 130° C. for 17 hours. The mixture was cooled to room temperature, diluted with water and extracted with ethyl acetate. The combined extracts were washed with saturated aqueous sodium chloride solution and dried over magnesium sulfate. The solvent was removed under reduced pressure and the solid washed with diethyl ether and dried to afford title compound, 1.5 g.

reactant | (3-amino-4-fluorophenoxy)acetic acid methyl ester | 1.1 g | COC(COC1=CC(=C(C=C1)F)N)=O | C9H10FNO3
reactant | 2-(2-chloro-4-fluorobenzyl)-3-oxopentanoic acid methyl ester | 2.4 g | COC(C(C(CC)=O)CC1=C(C=C(C=C1)F)Cl)=O | C13H14ClFO3
reactant | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | [3-(2-chloro-4-fluorobenzyl)-2-ethyl-8-fluoro-4-oxo-1,4-dihydroquinolin-5-yloxy]acetic Acid Methyl Ester | COC(COC1=C2C(C(=C(NC2=C(C=C1)F)CC)CC1=C(C=C(C=C1)F)Cl)=O)=O | C21H18ClF2NO4
